US07208450B2
Step E Synthesis of 3-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]propan-1-ol as an intermediate
This compound was prepared in a manner analogous to that of Step D of Example 1, by the reaction of 8.0 grams (0.034 mole) of 3,5dichloro-4-(2-hydroxypropoxy)phenol, 10.1 grams (0.056 mole) of 1,1,1,3-tetrachloropropane and 10.8 grams (0.078 mole) of potassium carbonate in 100 mL of DMF. The reaction product was purified with column chromatography on silica gel using 1:2 methylene chloride:hexane as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 9.1 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 3,5dichloro-4-(2-hydroxypropoxy)phenol | 0.034 mole, 8.0 grams | ClC=1C=C(C=C(C1OCC(C)O)Cl)O | C9H10Cl2O3
reactant | 1,1,1,3-tetrachloropropane | 0.056 mole, 10.1 grams | ClC(CCCl)(Cl)Cl | C3H4Cl4
reactant | potassium carbonate | 0.078 mole, 10.8 grams | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]propan-1-ol | 9.1 grams | ClC(=CCOC1=CC(=C(OCCCO)C(=C1)Cl)Cl)Cl | C12H12Cl4O3
